US04053606
A mixture of 21.0 g. of 2-methyl-3-hydroxy-4-chloromethyl-5-vinylpyridine, 6.74 g. of thiourea, and 200 ml. of ethanol was refluxed 3 hours. The cooled mixture was filtered and the solids were washed with ether to give 2-methyl-3-hydroxy-4-isothioureidomethyl-5-vinylpyridine hydrochloride.

reactant | 2-methyl-3-hydroxy-4-chloromethyl-5-vinylpyridine | CC1=NC=C(C(=C1O)CCl)C=C | C9H10ClNO
reactant | thiourea | NC(=S)N | CH4N2S
solvent | ethanol | C(C)O | C2H6O
product | 2-methyl-3-hydroxy-4-isothioureidomethyl-5-vinylpyridine hydrochloride | Cl.CC1=NC=C(C(=C1O)CNC(S)=N)C=C | InChI=1S/C10H13N3OS.ClH/c1-3-7-4-12-6(2)9(14)8(7)5-13-10(11)15;/h3-4,14H,1,5H2,2H3,(H3,11,13,15);1H
